US07754728B2
9-Benzyl-8-hydroxy-2-methoxycarbonylmethylaminoadenine
Thus obtained 9-benzyl-8-bromo-2-methoxycarbonylmethylaminoadenine was added to concentrated hydrochloric acid (10 ml), and the mixture was stirred for 8 hours at 100° C. The mixture was neutralized in an ice bath with 5% sodium hydroxide solution (pH 7) and the solvent was removed. To the residue were added methanol (30 ml) and sulfuric acid (1 ml), and the mixture was refluxed for 4 hours. After being neutralized (pH 6) in an ice bath with saturated sodium hydrogencarbonate solution, the solution was extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by column chromatography and the obtained compound was washed with methanol to give the captioned compound (0.02 g) as a white solid.

reactant | 9-benzyl-8-bromo-2-methoxycarbonylmethylaminoadenine | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1Br)N)NCC(=O)OC | C15H15BrN6O2
reactant | sodium hydroxide | pH 7 | [OH-].[Na+]
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 9-Benzyl-8-hydroxy-2-methoxycarbonylmethylaminoadenine | 0.02 g | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1O)N)NCC(=O)OC | C15H16N6O3
